US06573263B2
Analogously to Example 40A, 12.9 mg (0.10 mmol) of oxalyl chloride, 9.91 mg (0.13 mmol) of dimethyl sulphoxide, 43.0 mg (0.08 mmol) of N-{1-[3-(3-ethoxy-4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}2-(1-hydroxyethyl)-5-phenylpentanamide and 32.8 mg (0.25 mmol) of N-ethyldiisopropylamine are reacted to give 2-acetyl-N-{1-[3-(3-ethoxy-4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}-5-phenylpentanamide.

reactant | oxalyl chloride | 0.10 mmol, 12.9 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulphoxide | 0.13 mmol, 9.91 mg | CS(=O)C | C2H6OS
reactant | N-{1-[3-(3-ethoxy-4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}2-(1-hydroxyethyl)-5-phenylpentanamide | 0.08 mmol, 43.0 mg | C(C)OC=1C=C(CC2=NN=C(C(N2)=O)C(CC)NC(C(CCCC2=CC=CC=C2)C(C)O)=O)C=CC1OC | C29H38N4O5
reactant | N-ethyldiisopropylamine | 0.25 mmol, 32.8 mg | C(C)N(C(C)C)C(C)C | C8H19N
product | 2-acetyl-N-{1-[3-(3-ethoxy-4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}-5-phenylpentanamide | C(C)(=O)C(C(=O)NC(CC)C=1C(NC(=NN1)CC1=CC(=C(C=C1)OC)OCC)=O)CCCC1=CC=CC=C1 | C29H36N4O5
